US03989707
To a stirred mixture of 85.6 parts of methyl 3-methyl-4-oxo-1-piperidinecarboxylate and 240 parts of methanol are added 54.6 parts of benzenemethanamine (exothermic reaction). After stirring for 5 minutes, there are added 0.2 parts of 4-methylbenzenesulfonic acid and the whole is hydrogenated at normal pressure and at normal temperature with 10 parts of palladium-on-charcoal catalyst 10%. After the calculated amount of hydrogen is taken up, (about 20 hours), the catalyst is filtered off and the filtrate is evaporated. The residue is distilled, yielding methyl 4-amino-3-methyl-1-piperidinecarboxylate; bp. 136°-140° C. (water-jet).

reactant | methyl 3-methyl-4-oxo-1-piperidinecarboxylate | CC1CN(CCC1=O)C(=O)OC | C8H13NO3
reactant | benzenemethanamine | C1(=CC=CC=C1)CN | C7H9N
reactant | 4-methylbenzenesulfonic acid | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | methanol | CO | CH4O
product | methyl 4-amino-3-methyl-1-piperidinecarboxylate | NC1C(CN(CC1)C(=O)OC)C | C8H16N2O2
